US07399759B2
2-Cyano-6-dimethylaminopyrazine
2-Chloro-6-cyanopyrazine (0.85 g, 6.09 mmol) and 1.67 N dimethylamine in acetonitrile (4.00 ml, 6.70 mmol) were added to THF (100 ml), and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the titled compound (0.50 g, 55%) as pale yellow crystals.

reactant | 2-Chloro-6-cyanopyrazine | 6.09 mmol, 0.85 g | ClC1=NC(=CN=C1)C#N | C5H2ClN3
reactant | dimethylamine | 1.67 N | CNC | C2H7N
reactant | acetonitrile | 6.70 mmol, 4.00 ml | C(C)#N | C2H3N
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyano-6-dimethylaminopyrazine | 0.50 g, 55% | C(#N)C1=NC(=CN=C1)N(C)C | C7H8N4
